US03974161
A. α-Cyano-β-(2-Nitro-4,5-Dimethoxyphenyl)Acrylamide
Piperidine (2.1 g., 0.0237 mole) and 2-cyanoacetamide (22.0 g., 0.263 mole) are added to a slurry of 6-nitroveratraldehyde (50.0 g., 0.237 mole) in methanol (500 ml.). The mixture is heated to reflux for 2 hours, and then cooled in an ice bath and filtered. The bright yellow filter cake is washed with cold isopropanol (300 ml.) and then air dried. Yield = 60.1 g. (93%); m.p. 265°-266° C.

reactant | Piperidine | 0.0237 mole, 2.1 g | N1CCCCC1 | C5H11N
reactant | 2-cyanoacetamide | 0.263 mole, 22.0 g | C(#N)CC(=O)N | C3H4N2O
reactant | 6-nitroveratraldehyde | 0.237 mole, 50.0 g | [N+](=O)([O-])C1=CC(=C(C=C1C=O)OC)OC | C9H9NO5
solvent | methanol | 500 ml | CO | CH4O
product | α-Cyano-β-(2-Nitro-4,5-Dimethoxyphenyl)Acrylamide | C(#N)C(C(=O)N)=CC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C12H11N3O5
